US07514457B2
3A) (4-tert-Butyl-3,5-difluorophenoxy)acetic acid
To a suspension of sodium hydride (75 mg, 1.9 mmol) in THF (5 ml) was added 4-tert-butyl-3,5-difluorophenol (290 mg, 1.6 mmol) at 0° C., followed by stirring for 30 minutes. Then, tert-butyl bromoacetate (370 mg, 1.9 mmol) was added and the mixture was refluxed at 90° C. for 1 hour. The reaction was quenched with saturated ammonium chloride aqueous solution and the product was extracted with EtOAc, washed with brine, dried over magnesium sulfate. Then, filtration, evaporation, and purification through silica gel column chromatography eluting with hexane/EtOAc (20:1 to 4:1) gave the tert-butyl(4-tert-butyl-3,5-difluorophenoxy)acetate (403 mg, 86%). The DCM (2.0 ml) solution of tert-butyl(4-tert-butyl-3,5-difluorophenoxy)acetate (400 mg, 1.34 mmol) and TFA (2.0 ml), was stirred for 1 hour at room temperature. Evaporation gave the residue which was triturated with Hexane to furnish the title compound as a white solid (253 mg, 77%). 1H NMR (300 MHz, CDCl3): δ 1.42 (9H, t, J=2.2 Hz), 4.63 (2H, s), 6.39 (2H, d, J=12.1 Hz). MS (ESI) m/z 243 (M−H)−.

reactant | tert-butyl(4-tert-butyl-3,5-difluorophenoxy)acetate | 1.34 mmol, 400 mg | C(C)(C)(C)OC(COC1=CC(=C(C(=C1)F)C(C)(C)C)F)=O | C16H22F2O3
reactant | TFA | 2.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.0 ml | C(Cl)Cl | CH2Cl2
product | (4-tert-Butyl-3,5-difluorophenoxy)acetic acid | 253 mg, 77% | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1F)F | C12H14F2O3
